Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tylenol / lisinopril / simvastatin / Warfarin
 
Attending: ___.
 
Chief Complaint:
Right ___ toe ulcer, left leg weakness and swelling
 
Major Surgical or Invasive Procedure:
ERCP 
 
History of Present Illness:
Mr. ___ is a ___ y/o male with CKD (baseline Cr 4.5-4.7) 
(with AV-fistula, no HD yet), CVA with residual left sided 
weakness (___), obesity who presented to his PCP office with 
___ swelling/weakness x 2 weeks and sore on R ___ toe x several 
days. PCP office sent patient to the ED for ___ and possible 
antibiotics for toe infection. Patient states that he has 
baseline ___ weakness since stroke several years ago, however 
over past few months has been having gradually increasing 
weakness. He attributed his weakness to significant weight loss 
(over 100lbs) and muscle loss. The weight loss had not been 
intentional as it was due to mouth sores and pain with 
swallowing. This has improved with a change in his CPAP mask.  

As for the swelling, he himself had not noticed the swelling but 
his wife was becoming more and more concerned. He did not want 
to go to see his PCP however his wife insisted. 
 
As for the toe infection, it was first noticed by his wife 
within the past week. She has been puttin topical neosporin in 
the wound with minimal improvement. He denied any signficant 
pain, fevers, chills or night sweats.  
 
In the ED, initial vital signs were 96.9 71 115/52 18 100% RA. 
Patient had ___ performed which showed DVT and was started on a 
heparin drip. He also received keflex and vancomycin for toe 
infection. Xray of the right toe was done with ED dash 
commenting that it was concerning for osteomyelitis.  

Of note, patient also discussed multiple other issues that have 
been ongoing for the past year. He underwent colonoscopy and EGD 
___ year ago with biospy showing colon polyps, gastric polyps, and 
duodenal carcinoid tumor. He developed pain oral lesions soon 
after the procedure which restricted his ability to eat normal 
foods ___ odynaphagia. Over the course of the last ___ months, 
he has lost >100 lbs, notes decreased appetite, generalized 
weakness, malaise, and persistent watery diarrhea. 

His oral lesions were biopsied by ENT and showed squamous 
dysplasia. He is now seen by dermatology for these lesions and 
is scheduled for repeat biopsy next week with them as 
outpatient. 

He was also admitted to ___ for the diarrhea roughly ___ 
months ago and was found to have elevated 5-HIAA (1000). He is 
followed by GI who recommended repeat colonoscopy and EGD for 
the persistent diarrhea and further work-up of ?carcinoid. Pt 
also had MRI abdomen/pelvis 1 month ago (___) without 
evidence of intra-abdominal masses or liver lesions. His ASA and 
plavix were held for scheduled procedures next week with ___ 
GI.
 
Past Medical History:
Atrial fibrillation on coumadin
Diabetes
Chronic renal insufficiency with baseline creatinine of 2.5-3.5
Hypertension
Hypercholesteremia
Hypothyroidism
History of stroke ___ years ago
Right carotid endarterectomy ___ years ago
 
Social History:
___
Family History:
Both his mother and father were smokers and developed lung 
cancer.

 
Physical Exam:
Discharge Physical Exam

Admission Physical Exam  
Vitals- 97.4 141/53 92 99RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- obese, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- bilateral lower extremity edema with left 3+ > right 2+, DP 
1+, ___ unable to palpate, small ulcer <5mm on the ___ toe of the 
right foot with area of erythema about 2-3cm circumfirentially, 
no drainage noted, slight tenderness to palpation.  
Neuro: ___ ___nd flexion of the left knee and 
extention and flexion of the hip, ___ strength with plantar and 
dorsiflexion, ___ in the right lower extremity  
___ strength bilaterally for upper extremity  
 
Pertinent Results:
DISCHARGE LABS

IMAGING
LENIs (___) IMPRESSION:
1.  Occlusive thrombus in the left superficial femoral and 
popliteal veins,
with possible non-occlusive thrombus in the left common femoral 
vein; proximal
extent not well evaluated on this study.
2.  Thrombus in the right posterior tibial and peroneal veins.

R Foot x-ray (___)
IMPRESSION:  Focal area of cortical loss involving the base of 
the distal
phalanx of the second toe which is concerning for osteomyelitis. 
 Please note
that an MRI with contrast is a more sensitive study for the 
detection of
osteomyelitis.

L Foot x-ray (___)
IMPRESSION: There is diffuse osteopenia, dense vascular 
calcification, and soft tissue
swelling.  No definite bone destruction to confirm the presence 
of
osteomyelitis is identified.  No displaced fracture is detected.

CT A/P (___) IMPRESSION:
1.  Findings are consistent with mild pancreatitis.  No evidence 
for fluid collections.
2.  Small bilateral pleural effusions with adjacent atelectasis.
3.  Cholelithiasis.
4.  Sigmoid diverticulosis without evidence for diverticulitis.

ECHO (___)
The left atrium is moderately dilated. The right atrium is 
markedly dilated. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). The right ventricular free wall is 
hypertrophied. Right ventricular chamber size is normal. with 
normal free wall contractility. The aortic valve leaflets (3) 
are mildly thickened. There is mild aortic valve stenosis (valve 
area 1.2-1.9cm2). Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. Moderate [2+] tricuspid regurgitation is seen. There 
is moderate pulmonary artery systolic hypertension. There is a 
small pericardial effusion. There is an anterior space which 
most likely represents a prominent fat pad. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild calcific aortic stenosis. Mild mitral regurgitation. 
Hypertrophied right ventricle with normal function. Moderate 
tricuspid regurgitation with moderate pulmonary artery systolic 
hypertension. 

___ 02:30PM BLOOD WBC-7.2 RBC-4.00* Hgb-13.3* Hct-42.3 
MCV-106* MCH-33.2* MCHC-31.3 RDW-17.0* Plt ___
___ 06:00AM BLOOD WBC-6.1 RBC-3.57* Hgb-11.8* Hct-37.3* 
MCV-105* MCH-33.1* MCHC-31.7 RDW-17.1* Plt ___
___ 07:00AM BLOOD WBC-11.8*# RBC-3.65* Hgb-12.2* Hct-38.5* 
MCV-106* MCH-33.3* MCHC-31.6 RDW-17.0* Plt ___
___ 06:06PM BLOOD WBC-10.7 RBC-3.44* Hgb-11.4* Hct-36.2* 
MCV-105* MCH-33.2* MCHC-31.6 RDW-17.8* Plt ___
___ 10:58AM BLOOD WBC-8.3 RBC-3.36* Hgb-11.2* Hct-35.3* 
MCV-105* MCH-33.4* MCHC-31.8 RDW-17.9* Plt ___
___ 10:25AM BLOOD WBC-6.9 RBC-3.43* Hgb-11.6* Hct-35.5* 
MCV-104* MCH-33.8* MCHC-32.6 RDW-17.8* Plt ___
___ 06:03AM BLOOD WBC-5.7 RBC-3.19* Hgb-10.6* Hct-33.5* 
MCV-105* MCH-33.2* MCHC-31.6 RDW-17.5* Plt ___
___ 05:30AM BLOOD WBC-5.9 RBC-3.33* Hgb-10.8* Hct-34.6* 
MCV-104* MCH-32.6* MCHC-31.4 RDW-17.3* Plt ___
___ 02:30PM BLOOD ___ PTT-31.3 ___
___ 01:16AM BLOOD PTT-150*
___ 07:00AM BLOOD PTT-45.9*
___ 08:14PM BLOOD ___ PTT-61.0* ___
___ 09:00PM BLOOD PTT-150*
___ 06:03AM BLOOD ___ PTT-150* ___
___ 02:56PM BLOOD PTT-97.0*
___ 09:47PM BLOOD PTT-150*
___ 08:15AM BLOOD ___ PTT-45.8* ___
___ 02:30PM BLOOD ESR-5
___ 02:30PM BLOOD Glucose-91 UreaN-46* Creat-4.1* Na-135 
K-GREATER TH Cl-110* HCO3-15*
___ 06:00AM BLOOD Glucose-96 UreaN-51* Creat-4.3* Na-143 
K-3.9 Cl-115* HCO3-14* AnGap-18
___ 10:58AM BLOOD Glucose-55* UreaN-45* Creat-4.0* Na-143 
K-5.9* Cl-116* HCO3-16* AnGap-17
___ 07:13PM BLOOD Na-141 K-6.6* Cl-115*
___ 08:30PM BLOOD K-8.5*
___ 10:25AM BLOOD Glucose-82 UreaN-47* Creat-4.1* Na-138 
K-6.9* Cl-111* HCO3-19* AnGap-15
___ 03:20PM BLOOD Na-141 K-3.7 Cl-110*
___ 06:03AM BLOOD Glucose-78 UreaN-41* Creat-3.2* Na-139 
K-8.0* Cl-111* HCO3-19* AnGap-17
___ 05:30AM BLOOD Glucose-91 UreaN-46* Creat-4.4*# Na-142 
K-6.3* Cl-111* HCO3-23 AnGap-14
___ 04:40PM BLOOD ALT-33 AST-93* AlkPhos-404* TotBili-2.5*
___ 07:00AM BLOOD ALT-57* AST-99* AlkPhos-448* TotBili-4.1*
___ 10:25AM BLOOD ALT-33 AST-39 AlkPhos-446* TotBili-3.6*
___ 06:03AM BLOOD ALT-26 AST-38 AlkPhos-89 TotBili-2.8*
___ 05:30AM BLOOD ALT-25 AST-31 AlkPhos-543* TotBili-2.5*
___ 04:40PM BLOOD Lipase-458*
___ 10:58AM BLOOD Lipase-74*
___ 06:00AM BLOOD Calcium-7.5* Phos-4.6* Mg-1.6
___ 06:06PM BLOOD Albumin-2.1* Calcium-6.7* Phos-3.8 Mg-1.7
___ 10:25AM BLOOD Calcium-6.9* Phos-4.2 Mg-1.9
___ 05:30AM BLOOD Calcium-6.9* Phos-4.4 Mg-2.0
___ 07:00AM BLOOD Vit___ Folate-5.2
___ 02:30PM BLOOD CRP-3.7
___ 07:00AM BLOOD PEP-ABNORMAL B IgG-787 IgA-198 IgM-296*
___ 06:23PM BLOOD freeCa-0.79*
___ 09:44PM BLOOD freeCa-0.82*
 
Brief Hospital Course:
___ y/o M with CKD (with AV-fistula, no HD yet), CVA (___), 
obesity, p/w ___ swelling/weakness x 2 weeks and sore on R ___ 
toe x several days. He developed abdominal pain in house, and 
enzymes were concerning for pancreatitis. He is s/p ERCP on 
___. 

# Chronic Kidney Disease: Patient is followed by Dr. ___ as 
an outpatient and on admission was noted to have a creatinine 
improved from baseline.  He continued to make normal amounts of 
urine. Renal followed the patient while he was hospitalized. He 
was placed on low K/low phos/low Na diet. Cinacalcet was held 
___ low ionized Ca while inpatient. His sevelamer was decreased 
and sodium bicarbonate was started per renal recommendations.    


 
# DVT: Patient was noted to have a DVT of the left superficial 
femoral and popliteal veins and thrombus in right posterior 
tibial and peroneal veins. With his history of CKD and 
calciphylaxis with coumadin, his options for anticoagulation 
were limited. Hematology was consulted and recommended heparin 
drip. When stable PTT, place patient on subcutaneous therapeutic 
heparin for long term home anticoagulation.  The patient was 
placed on 25,000U of subcutaneous heparin BID with most recent 
PTTs of 58.0 and 87.0. Hematology was reassured with these PTTs 
and the patient was discharged home with a prescription for 
25,000U BID of SCH.  He will require PTT monitoring once per 
week, which will be arranged through his PCP.   

#Pancreatitis: On HD1, patient developed diffuse abdominal ___, 
particularly in the epigastric region concerning for SBO vs. 
Pancreatitis vs. Cholecystitis. Ciprofloxacin and Flagyl were 
started. He was noted to have an elevated lipase, alk phos, 
tbili, and transaminases. He also developed mild leukocytosis. 
CT findings were consistent with cholelthiasis and mild 
pancreatitis. His symptoms resolved overnight with IVF and bowel 
rest. He underwent ERCP ___ with sphincteroplasty, which 
showed sludge and small stone fragments in CBD. Ciprofloxacin 
and Flagyl were discontinued. He remained asymptomatic, 
afebrile, and tolerated a regular diet. He will discuss with his 
PCP possible future follow up with general surgery to discuss 
potential cholecystectomy at a later date.   
 
# right second toe erytema/history of PVD: Patient presented 
with ulcer and surrounding erythema on R ___ toe with x-ray 
findings concerning for osteomyelitis. Podiatry reviewed the 
films and examined the patient. They felt osteomyeltitis was 
unlikely, particularly in setting of normal WBC, CRP,andESR. He 
was continued on IV vancomycin for cellulitis. Blood cultures 
were negative. On ___, vancomycin was discontinued and 
clindamycin and ciprofloxacin PO were started. The erythema 
remained stable. It was thought that the erythema could 
represent an arterial ulcer, the patient was instructed to 
follow up with his PCP for possible referral to vascular surgery 
as an outpatient for further workup and treatment given his 
history of PVD.  The patient is currently on therapeutic 
heparin, currently holding his Plavix. He will need to discuss 
with his PCP ___ to resume Plavix.         

# Lower Extremity Weakness: Patient presented with acute on 
chronic weakness of the ___. Notes baseline left ___ weakness ___ 
CVA many years ago. However, on admission he had decreased 
strength and difficulty using leg in setting of increased edema. 
With ___ and improvement of edema with heparin therapy, patient's 
symptoms improved and he returned to baseline. 

# Weight loss/Anorexia: Persistent weight loss and anorexia ___ 
year with reported loss of around 100lbs ___ pain with 
swallowing and oral lesions. Concerning for underlying 
malignancy in setting of other symptoms including malaise, oral 
lesions, generalized weakness, and new DVT. MRI ___ not revealing of metastatic lesions. Discussed with 
patient and recommended work-up as outpatient given complicated 
recent medical history. 

# Oral lesions: Multiple lesions present for about ___ year and 
possible squamous dysplasia on biopsy. Not typical of thrush but 
cannot be ruled out given pain and color of lesions. On exam 
___ lesions were significantly improved. He was started 
on triamcinolone acetonide, Nystatin, and 
Maalox/Diphenhydramine/ Lidocaine on admission. Patient will 
follow-up with his dermatologist for biopsy as an outpatient.   

# Carcinoid: Patient diagnosed with carcinoid by biopsy ___ year 
ago. Chromogranin levels were significantly elevated, HIAA was 
normal on ___. Abdominal MRI performed ___ and final read 
for ABD CT ___ show no evidence of metastatic lesions. He 
will f/u with GI for EGD and colonoscopy as an outpatient for 
repeat biopsy. 

CHRONIC ISSUES: 
# Hypertension: BPs in 100s/70s consistently throughout 
hospitalization   
# Atrial Fibrillation: Stable. Continue Metoprolol 50mg BID. 
Anticoagulation as above. 
# Gout: continue allopurinol
# Diabetes: Normal FSBGs while hospitalized. On low dose SSI if 
needed. 

TRANSITIONAL ISSUES:
1. DVT: the patient is currently on therapeutic subcutaneous 
heparin, which he will require once per week PTT monitoring. His 
PCP ___ be managing this upon discharge. 
2. Duodenal biopsy: performed in-house, results still pending at 
time of discharge, needs to be followed up on. 
3. Weight loss over past year: patient has scheduled follow up 
with GI for possible EGD/colonoscopy for further evaluation. 

MED REC:
- Plavix was held in the setting of starting heparin. Pt was 
previously using plavix/ASA for stroke ppx in setting of Afib. 
Consider whether this needs to be re-initiated, however we 
stopped it during this hospitalization.
- sevelamer was decreased per renal recommendations from 1600mg 
TID to ___ TID
- pt had been previously prescribed triamcinolone cream for 
tongue lesions; in light of prior dysplasia seen on biopsy this 
was discontinued
- Pt was previously taking aspirin 325 and this was decreased to 
81mg daily
- per renal recs pt was started on sodium bicarb 1300 BID as 
tolerated
- started vitamin D 50,000 weekly
- cinecalcet was stopped
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB/Wheezing 
2. Allopurinol ___ mg PO DAILY 
3. Cinacalcet 30 mg PO QOD 
4. Clopidogrel 75 mg PO DAILY 
5. Metoprolol Tartrate 50 mg PO BID 
6. Pravastatin 40 mg PO DAILY 
7. Ranitidine 150 mg PO DAILY 
8. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
9. Aspirin EC 325 mg PO DAILY 
10. triamcinolone acetonide *NF* 0.1 % Dental TID 
Apply to tongue lesions two to three times daily after meals Dry 
 
tongue with gauze first. Then apply medication.  
 

 
Discharge Medications:
1. Metoprolol Tartrate 50 mg PO BID 
2. Pravastatin 40 mg PO DAILY 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB/Wheezing 
4. Allopurinol ___ mg PO DAILY 
5. Ranitidine 150 mg PO DAILY 
6. sevelamer CARBONATE 800 mg PO TID W/MEALS 
7. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth once per week Disp #*6 Capsule Refills:*0
8. Furosemide 40 mg PO BID 
RX *furosemide 40 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
9. Heparin 25,000 UNIT SC BID 
10. Aspirin 81 mg PO DAILY 
11. Sodium Bicarbonate 1300 mg PO BID 
RX *sodium bicarbonate 650 mg 2 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
12. Outpatient Lab Work
PTT to be drawn on ___.
Please fax results to Dr. ___ at ___ 
___
Fax: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
DVT (blood clot in the leg) 
Cellulitis (skin infection) 
Pancreatitis  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you while you were in the hospital. 
You were admitted to the hospital for concern about the ulcer on 
your right ___ toe and a blood in your left leg. 

We could not start you on the usual medicines for the blood clot 
because you kidney disease and previous reaction to coumadin. 
Once your heparin anti-coagulation labs became stable, we 
started you on a subcutaneous heparin regimen that you will 
continue at home.  You need to have a blood test done once per 
week, called a PTT, drawn 6 hours after you have given yourself 
a shot of heparin to monitor your dose.   

Your toe was evaluated by podiatry who did not feel you had an 
infection in your bone. You were given antibiotics through your 
IV for skin infection of that area. The ulcer did approve in 
appearance. You need to speak with Dr. ___ potentially 
seeing a vascular surgeon in the near future to further evaluate 
the blood supply in your legs. 

While you were hospitalized, you also developed pancreatitis. 
You underwent a procedure called an ERCP to evaluate your 
gallbladder and ducts around your pancreas. You were found to 
have gallstone and sludge in your gallbladder and bile ducts but 
no evidence of blockage in your ducts. You should talk more with 
Dr. ___ possible referral to see a general surgeon in the 
near future to see if they would recommend your gallbladder 
being removed. 

The renal doctors were also ___ you while you were 
hospitalized. Because your calcium levels, we stopped one of 
your home medications called Synacal. You were also started on a 
diuretic to help get fluid off of your body, Lasix, which you 
should continue to take.  

You mentioned to us a history of significant weight loss over 
the past year.  It is still not clear exactly why you have lost 
this much weight. You need to follow up with our 
gastroenterology doctors as ___ below to consider an 
endoscopy of your gastrointesintal tract performed to further 
evaluate the possible cause of this weight loss. 

You were also having sores in your mouth, which you have had for 
some time now.  These did improve somewhat over your hospital 
course, however you need to follow up with dermatology as 
scheduled below for further work-up of these sores.

****On ___, you need to have your blood drawn 
to have a PTT test.  THIS BLOOD TEST NEEDS TO BE DRAWN 6 HOURS 
AFTER YOU GIVE YOURSELF A SHOT OF HEPARIN.  We have provided you 
with a prescription for this lab order. 
 
Followup Instructions:
___